US08334237B2
4-(Benzyloxyiminomethyl)-2,5-dimethylaniline
0.50 g (2.51 mmol) of 4-amino-2,5-dimethylbenzaldehyde is initially charged in 10 ml of methanol, 0.40 g (3.27 mmol) of O-benzyl hydroxylamine hydrochloride is added at room temperature and the reaction mixture is heated under reflux for 18 h. The mixture is then concentrated using a rotary evaporator and the residue is taken up in dichloromethane, extracted twice with water, dried over Na2SO4 and freed from the solvent under reduced pressure. This gives 0.3.8 g of product (purity 82.0%, yield 47.7%, log P (pH 2.3)=4.22).

reactant | 4-amino-2,5-dimethylbenzaldehyde | 2.51 mmol, 0.50 g | NC1=CC(=C(C=O)C=C1C)C | C9H11NO
reactant | O-benzyl hydroxylamine hydrochloride | 3.27 mmol, 0.40 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 10 ml | CO | CH4O
product | 4-(Benzyloxyiminomethyl)-2,5-dimethylaniline | yield 47.7% | C(C1=CC=CC=C1)ON=CC1=CC(=C(N)C=C1C)C | C16H18N2O
